US06451816B1
4-(1-Benzylpiperidin-3-ylidene)-butyronitrile
77.3 g (188.3 mmol) 3-cyanopropyl triphenylphosphonium bromide are suspended in 300 ml tolueneand added to 22.0 g (191.9 mmol) potassium-tert-butylate. The mixture is cooled to ca. 0° C. under moisture exclusion and a solution of 34.6 g (182.8 mmol) 1-benzyl-3-piperidone in 50 ml tolueneare added dropwise under cooling. The batch is left to stand overnight at ca. 0° C., subsequently diluted with 200 ml tolueneand washed twice, each with 100 ml water. The organic phase is extracted with 150 ml half-concentrated hydrochloric acid. Subsequently, the aqueous phase is made basic with 200 ml 10% sodium hydroxide solution and extracted twice, each with 250 ml toluol. The solvent is removed under vacuum and the residue is chromatographically purified over silica gel with CHCl3/CH3OH (97/3). After drawing off the solvent, a light brown oil remains which is further processed without additional purification. Yield: 47.4 g (90%).

reactant | 3-cyanopropyl triphenylphosphonium bromide | 188.3 mmol, 77.3 g | [Br-].C(#N)CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 1-benzyl-3-piperidone | 182.8 mmol, 34.6 g | C(C1=CC=CC=C1)N1CC(CCC1)=O | C12H15NO
product | 4-(1-Benzylpiperidin-3-ylidene)-butyronitrile | C(C1=CC=CC=C1)N1CC(CCC1)=CCCC#N | C16H20N2
